US05109013
2-[2-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]ethyl]-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]-triazepino[3,2-a]benzimidazol-5(2H)-one
To a solution of 50 mL of toluene containing 4.0 g (0.04 mol) of triethylamine was added 3.0 g (0.01 mol) of 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one and 4.0 g (0.014 mol) of 4-[bis(4-fluorophenyl)methyl]piperidine. The mixture was heated to reflux for 3 days after which time 1.0 g (0.003 mL) of 4-[bis(4-fluorophenyl)methyl]piperidine and 1.0 g (0.01 mol) of triethylamine was added. Heating under reflux was continued for 24 hr. The solvent was removed by rotary evaporation and the residue dissolved in 100 mL of CH2Cl2. The organic phase was washed with 2×100 mL of 1N NaOH, dried over Na2SO4, filtered, and concentrated by rotary evaporation. The residue was subjected to preparative HPLC using silica gel as the stationary phase and eluting with ethanol. Combination of like fractions afforded 3.1 g (57%) of analytically pure material as a glass.

reactant | toluene | 0.04 mol, 50 mL, 4.0 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | 0.01 mol, 3.0 g | ClCCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C | C14H17ClN4O
reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.014 mol, 4.0 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.003 mL, 1.0 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.01 mol, 1.0 g | C(C)N(CC)CC | C6H15N
product | 2-[2-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]ethyl]-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]-triazepino[3,2-a]benzimidazol-5(2H)-one | FC1=CC=C(C=C1)C(C1CCN(CC1)CCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C)C1=CC=C(C=C1)F | C32H35F2N5O
